US03954844
to a solution of 26 parts of methyl (5Z,13E,15S)-15-acetyloxy-11ξ-hydroxyprosta-5,9,13-trien-1-oate in 200 parts of acetone at -10° is added 100 parts of Jones reagent. The resultant mixture is stirred at -10° for 7 minutes, then diluted with 10 volumes of water. The mixture thus obtained is extracted with dichloromethane. The extract is washed with water, dried over anhydrous sodium sulfate, and stripped of solvent by vacuum distillation. The oily residue is taken up in benzene; and the benzene solution is chromatographed on silica gel, using benzene and mixtures thereof with increasing amounts of ethyl acetate as developing solvent. From an eluate comprising 5% ethyl acetate in benzene, on evaporation of solvent, methyl (5Z,13E,15S)-15-acetyloxy-11-oxoprosta-5,9,13-trien-1-oate is obtained as a pale yellow oil. The product has the formula ##SPC3##

reactant | methyl (5Z,13E,15S)-15-acetyloxy-11ξ-hydroxyprosta-5,9,13-trien-1-oate | C(C)(=O)O[C@H](/C=C/[C@H]1C(C=C[C@@H]1C\C=C/CCCC(=O)OC)O)CCCCC | C23H36O5
reactant | acetone | CC(=O)C | C3H6O
reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | water | O | H2O
product | methyl (5Z,13E,15S)-15-acetyloxy-11-oxoprosta-5,9,13-trien-1-oate | C(C)(=O)O[C@H](/C=C/[C@H]1C(C=C[C@@H]1C\C=C/CCCC(=O)OC)=O)CCCCC | C23H34O5
